US04730005
(a) 2-Undecyloxybenzaldehyde
A mixture of salicylaldehyde (10.15 moles), undecylbromide (10.3 mmoles) and potassium carbonate (11.7 mmoles) in dimethylformamide (10 ml) is heated to 100° C. for 1 hour and then is cooled. The reaction mixture is taken up in hexane and is washed with 5 percent sodium hydroxide and brine. After treatment with anhydrous magnesium sulfate and charcoal, the volatiles are removed under vacuum and the residue is purified by flash chromatography to give the desired product.

reactant | salicylaldehyde | 10.15 moles | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | undecylbromide | 10.3 mmoles | C(CCCCCCCCCC)Br | C11H23Br
reactant | potassium carbonate | 11.7 mmoles | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 2-Undecyloxybenzaldehyde | C(CCCCCCCCCC)OC1=C(C=O)C=CC=C1 | C18H28O2
